US06274572B1
Stage A: 21-chloro-16α-methyl-pregna-1,4,9(11)-triene-3-20-dione
8.8 ml of methane sulphonyl chloride is added at 10° C. to a mixture, under an inert atmosphere, of 15 g of methyl 16α-methyl-21-hydroxy-pregna-1,4,9(11)-triene-3-20-dione in 40 ml of methyl ethyl pyridine, and the whole is agitated at ambient temperature for 5 hours. It is poured into an ice+water mixture, acidified by the addition of hydrochloric acid, filtration is carried out, followed by washing and drying. 16.2 g of expected crude product is obtained which is purified by chromatography, eluting with a benzene/ethyl acetate mixture 8/2. 13.4 g of expected pure product is obtained. M.P.=154° C.

reactant | methane sulphonyl chloride | 8.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 16α-methyl-21-hydroxy-pregna-1,4,9(11)-triene-3-20-dione | 15 g | CC(C([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O)O | C23H30O3
reactant | hydrochloric acid | Cl | ClH
solvent | methyl ethyl pyridine | 40 ml | CC=1C(=NC=CC1)CC | C8H11N
product | 21-chloro-16α-methyl-pregna-1,4,9(11)-triene-3-20-dione | 16.2 g | ClCC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C22H27ClO2
